US07482341B2
Step C]: N-(5-Methoxymethyl-6-methyl-pyridin-2-yl)-3-trifluoromethyl-benzenesulfonamide
This material was prepared in analogy to example 1 from 5-methoxymethyl-6-methyl-pyridin-2-ylamine (0.058 g) and 3-(trifluoromethyl)-benzenesulfonyl chloride (0.103 g) as a light yellow gum (0.1 g). MS (ESI−): 359.0 ([M−H]−)

reactant | 5-methoxymethyl-6-methyl-pyridin-2-ylamine | 0.058 g | COCC=1C=CC(=NC1C)N | C8H12N2O
reactant | 3-(trifluoromethyl)-benzenesulfonyl chloride | 0.103 g | FC(C=1C=C(C=CC1)S(=O)(=O)Cl)(F)F | C7H4ClF3O2S
product | N-(5-Methoxymethyl-6-methyl-pyridin-2-yl)-3-trifluoromethyl-benzenesulfonamide | COCC=1C=CC(=NC1C)NS(=O)(=O)C1=CC(=CC=C1)C(F)(F)F | C15H15F3N2O3S
